US05767131
The solution of 3-benzyloxycarbonyl-5-(2-cyanoethoxy) carbonyl-2,6-diethyl-1,4-dihydro-4-(4-nitrophenyl)pyridine (6.30 g, 13.0 mmol) in 250 ml of 4.4%(w/w) formic acid/MeOH mixture was stirred with Pd/C (10%, 6.0 g) for 30 min., the reaction was quenched by addition of 100 ml of CHCl3. The mixture was filtered and concentration of filtrate give a yellow powder, which was dissolved in CHCl3, washed with water and 1N HCl. After filtration and removal of solvent, 3-(2-cyanoethoxy)carbonyl-2,6-diethyl-1,4-dihydro-4-(4-nitrophenyl)pyridine-5-carboxylic acid was obtained as a yellow powder (4.5 g, 87%).

reactant | 3-benzyloxycarbonyl-5-(2-cyanoethoxy) carbonyl-2,6-diethyl-1,4-dihydro-4-(4-nitrophenyl)pyridine | 13.0 mmol, 6.30 g | C(C1=CC=CC=C1)OC(=O)C1=C(NC(=C(C1C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCCC#N)CC)CC | C27H27N3O6
reactant | formic acid MeOH | C(=O)O.CO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
catalyst | Pd/C | 6.0 g | [Pd] | Pd
product | 3-(2-cyanoethoxy)carbonyl-2,6-diethyl-1,4-dihydro-4-(4-nitrophenyl)pyridine-5-carboxylic acid | C(#N)CCOC(=O)C1=C(NC(=C(C1C1=CC=C(C=C1)[N+](=O)[O-])C(=O)O)CC)CC | C20H21N3O6
